US06960601B2
A sample of 2-(2-chlorophenyl)-5-methyl-1-(4-nitrophenyl)-N-(1-piperidinyl)-1H-imidazole-4-carboxamide (Table entry 41) (111 mg, 0.25 mmol) was added as a suspension in ethanol (5 mL) to Degussa-type palladium on carbon (10% by weight, 12 mg). The mixture was hydrogenated at atmospheric pressure and rt for 2 h. Filtration of the mixture through Celite and concentration of the filtrate gave 1-(4-aminophenyl)-2-(2-chlorophenyl)-5-methyl-N-(1-piperidinyl)-1H-imidazole-4-carboxamide as a yellow foam (104 mg, 100%). This material was used without purification for the preparation of compounds of the invention, such as Example 46.

reactant | 2-(2-chlorophenyl)-5-methyl-1-(4-nitrophenyl)-N-(1-piperidinyl)-1H-imidazole-4-carboxamide | 0.25 mmol, 111 mg | ClC1=C(C=CC=C1)C=1N(C(=C(N1)C(=O)NN1CCCCC1)C)C1=CC=C(C=C1)[N+](=O)[O-] | C22H22ClN5O3
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 12 mg | [Pd] | Pd
product | 1-(4-aminophenyl)-2-(2-chlorophenyl)-5-methyl-N-(1-piperidinyl)-1H-imidazole-4-carboxamide | 104 mg, 100% | NC1=CC=C(C=C1)N1C(=NC(=C1C)C(=O)NN1CCCCC1)C1=C(C=CC=C1)Cl | C22H24ClN5O
